US08183279B2
Preparation of 2,4-bisbenzyloxy-N-butyl-5-[5-(2-chloroethoxy)-1,3-dihydroisoindole-2-carbonyl]-2,4-dihydroxy-N-methylbenzamide (“A10a”)
235 mg (1.7 mmol) of potassium carbonate and 580 μl (7 mmol) of 1-bromo-2-chloroethane are added to a solution of 400 mg (0.708 mmol) of 2,4-bisbenzyloxy-N-butyl-2,4-dihydroxy-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide in 3 ml of acetonitrile. The suspension is stirred for 16 h at 80° C., cooled to 22° C. and filtered. The residue is washed with acetonitrile, and the combined filtrates are evaporated to dryness in vacuo: 408 mg (92%) of 2,4-bisbenzyloxy-N-butyl-5-[5-(2-chloroethoxy)-1,3-dihydroisoindole-2-carbonyl]-2,4-dihydroxy-N-methylbenzamide (“A10a”), MW 627.2; Rt 2.371 min.

reactant | potassium carbonate | 1.7 mmol, 235 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 7 mmol, 580 μl | BrCCCl | C2H4BrCl
reactant | 2,4-bisbenzyloxy-N-butyl-2,4-dihydroxy-5-(5-hydroxy-1,3-dihydroisoindole-2-carbonyl)-N-methylbenzamide | 0.708 mmol, 400 mg | C(C1=CC=CC=C1)OC1(C(C(=O)N(C)CCCC)C=C(C(C1)(O)OCC1=CC=CC=C1)C(=O)N1CC2=CC=C(C=C2C1)O)O | C35H40N2O7
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2,4-bisbenzyloxy-N-butyl-5-[5-(2-chloroethoxy)-1,3-dihydroisoindole-2-carbonyl]-2,4-dihydroxy-N-methylbenzamide | C(C1=CC=CC=C1)OC1(C(C(=O)N(C)CCCC)C=C(C(C1)(O)OCC1=CC=CC=C1)C(=O)N1CC2=CC=C(C=C2C1)OCCCl)O | C37H43ClN2O7
